US08980877B2
(E)-3-[1′-Acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (270 mg, 0.85 mmol) was hydrolyzed with 1 M NaOH (1.1 ml) following the procedure described in Example 30, Step A, giving (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (120 mg, hydrochloride salt) as a brown solid.

reactant | (E)-3-[1′-Acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 0.85 mmol, 270 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)C(C)=O)OC2=CC1)=O)=O | C17H17NO5
reactant | NaOH | 1 M, 1.1 ml | [OH-].[Na+]
product | (E)-3-[1′-acetyl-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 120 mg | C(C)(=O)N1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C16H15NO5
